US07947728B1
4-(4′,5′-Difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-1-(tetrahydro-pyran-2-yl)-1H-indazole (0.4 g, 0.888 mmol) and 1N HCl (1.8 mL, 1.8 mmol) in 10 mL MeOH were heated to reflux for 5 hrs. The reaction was cooled and distributed between EtOAc and H2O. The water layer was made basic to pH 12 and the organic layer was separated and concentrated in vacuo. The crude product was purified by flash chromatography with a gradient from 20-100% ethyl acetate in hexanes to yield 4-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-1H-indazole as a white solid (240 mg, 73.7%). LC-MS (ES) calculated for C21H16F2N2O2, 366.37; found m/z 367 [M+H]+.

reactant | 4-(4′,5′-Difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-1-(tetrahydro-pyran-2-yl)-1H-indazole | 0.888 mmol, 0.4 g | FC1=CC(=C(C=C1F)C1=CC=C(C=C1)OCC1=C2C=NN(C2=CC=C1)C1OCCCC1)OC | C26H24F2N2O3
reactant | HCl | 1.8 mmol, 1N, 1.8 mL | Cl | ClH
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | H2O | O | H2O
solvent | MeOH | 10 mL | CO | CH4O
product | 4-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-1H-indazole | 240 mg, 73.7% | FC1=CC(=C(C=C1F)C1=CC=C(C=C1)OCC1=C2C=NNC2=CC=C1)OC | C21H16F2N2O2
